US08486952B2
A solution of 7-(3,5-difluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione (700 mg, 2.64 mmol) in concentrated ammonium hydroxide (50 mL, 1284 mmol) was heated at 100° C. in a high-pressure (350 mL) vessel overnight. The reaction mixture was cooled and concentrated in vacuum to give crude 7-(3,5-difluorophenyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione (740 mg, 2.80 mmol, 106% yield). LC-MS (M+H)+=265.0.

reactant | 7-(3,5-difluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione | 2.64 mmol, 700 mg | FC=1C=C(C=C(C1)F)C1CCC=2C(NC(OC21)=O)=O | C13H9F2NO3
reactant | ammonium hydroxide | 1284 mmol, 50 mL | [OH-].[NH4+]
product | 7-(3,5-difluorophenyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione | 2.80 mmol, 740 mg, 106% yield | FC=1C=C(C=C(C1)F)C1CCC2=C1NC(NC2=O)=O | C13H10F2N2O2
